US04692184
Preparation of diethyl 2-(difluoromethyl)-4-cyclopropyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylate
To a solution of 40 g (0.0916 mole) of diethyl 2,6-bis(trifluoromethyl)-2,6-dihydroxy-4-cyclopropyl-tetrahydropyran-3,5-dicarboxylate in 200 ml of THF is introduced 55.5 g (3.26 moles) of ammonia. The reaction mixture is concentrated to give 38.5 g (96.7%) of a solid. A portion (28 g) of this material is stirred with 27.08 g (0.129 mole) of trifluoroacetic anhydride for one day. The reaction mixture is concentrated and diluted with ether. The ether solution is washed with saturated sodium bicarbonate, dried (MgSO4), and concentrated to give 21 g (81.3%) of an oil, nD25 1.4460. This oil is identified as diethyl 2,6-bis(trifluoromethyl)-4-cyclopropyl-1,4-dihydro-pyridine-3,5-dicarboxylate. A portion (18 g) of this oil and 150 ml of THF is treated with 6.82 g (0.0449 mole) of DBU. The reaction mixture is held at reflux for 24 hours and concentrated. The residue is stirred with water and extracted with ether. The ether extract is washed with diluted HCl, dried (MgSO4), and concentrated. The residue is crystallized to give 13 g (76.0%) of crude product. A portion (2.0 g) of this product is recrystallized from petroleum ether at low temperature to give 1.17 g (85%) of desired product, m.p. 30°-32° C.

reactant | diethyl 2,6-bis(trifluoromethyl)-4-cyclopropyl-1,4-dihydro-pyridine-3,5-dicarboxylate | FC(C=1NC(=C(C(C1C(=O)OCC)C1CC1)C(=O)OCC)C(F)(F)F)(F)F | C16H17F6NO4
reactant | DBU | 0.0449 mole, 6.82 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | diethyl 2-(difluoromethyl)-4-cyclopropyl-6-(trifluoromethyl)-3,5-pyridinedicarboxylate | 1.17 g, 85% | FC(C1=NC(=C(C(=C1C(=O)OCC)C1CC1)C(=O)OCC)C(F)(F)F)F | C16H16F5NO4
